US05519015
tert-Butyl 3-tert-butoxy-2-ethyloxycarbonyl-5-thiophenecarboxylate
A solution of ethyl-3-hydroxy-5-carboxy-2-thiophenecarboxylate(25 g, 0.115 mmol) in dry (25 g, 0.115 mmol) in dry CH2Cl2 (200 ml) was treated, at ambient temperature, with diisopropyl-tert-butylisourea (175 ml) added dropwise. This caused an exotherm which heated the mixture to reflux. The reaction mixture was then stirred for 12 hours, the solid removed by filtration, and the CH2Cl2 evaporated. The residual oil was purified by subjecting to silica gel chromatography, eluting with petroleum ether: ether (90:10) to give a mixture of two products (28.5 g). These two products were separated by flash chromatography, eluting with CH2Cl2 : petroleum ether (1:1), to give title compound (12.6 g, 33%).

reactant | ethyl-3-hydroxy-5-carboxy-2-thiophenecarboxylate | 0.115 mmol, 25 g | C(C)OC(=O)C=1SC(=CC1O)C(=O)O | C8H8O5S
reactant | diisopropyl-tert-butylisourea | 175 ml | C(C)(C)N=C(N(C(C)(C)C)C(C)C)O | C11H24N2O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-tert-butoxy-2-ethyloxycarbonyl-5-thiophenecarboxylate | 12.6 g, 33% | C(C)(C)(C)OC1=C(SC(=C1)C(=O)OC(C)(C)C)C(=O)OCC | C16H24O5S
